US08703795B2
b) 4-Bromo-3-bromomethyl-thiophene-2-carboxylic acid methyl ester
4-Bromo-3-methyl-thiophene-2-carboxylic acid methyl ester (3.0 g, 12.8 mmol), example 31-a, N-bromosuccinimide (2.33 g, 13.1 mmol), and benzoyl peroxide (310 mg, 1.28 mmol) were suspended in 32 mL of benzene and heated at reflux temperature for 16 hours. The reaction mixture was cooled and diluted with ethyl acetate. The reaction mixture was washed successively with saturated bicarbonate solution, brine, saturated ammonium chloride solution, and brine. The organic solvent was dried, filtered, and concentrated. The crude product was purified by flash chromatography eluting from silica gel with a gradient of 0-40% ethyl acetate in hexanes to produce 2.28 g of a yellow solid. 1H NMR (CDCl3, 200 MHz): δ=7.48 (s, 1H), 4.91 (s, 2H), and 3.94 (s, 3H).

reactant | 4-Bromo-3-methyl-thiophene-2-carboxylic acid methyl ester | 12.8 mmol, 3.0 g | COC(=O)C=1SC=C(C1C)Br | C7H7BrO2S
reactant | N-bromosuccinimide | 13.1 mmol, 2.33 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1.28 mmol, 310 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | benzene | 32 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-3-bromomethyl-thiophene-2-carboxylic acid methyl ester | 2.28 g | COC(=O)C=1SC=C(C1CBr)Br | C7H6Br2O2S
